US06369221B1
N-Benzyl-2-tert-butoxycarbonylamino-5-trifluoromethoxybenzamide may be prepared in the following manner: 12.9 g of N,N′-dicyclohexylcarbodiimide are added to a solution, kept under an argon atmosphere at −10° C., of 20 g of 2-tert-butoxycarbonylamino-5-trifluoromethoxybenzoic acid, 16.9 g of 1-hydroxybenzotriazole and 6.8 g of benzylamine in 400 ml of anhydrous tetrahydrofuran. The mixture is stirred for 2 hours at the same temperature and then for 16 hours at a temperature close to 20° C. After cooling to 0° C., the insoluble matter is separated by filtration, washed with ethyl acetate and the filtrate is concentrated to dryness under reduced pressure (2 kPa). The product obtained is dissolved in 60 ml of ethyl acetate and the solution is washed twice with 25 ml of a saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2 kPa). The product obtained is resuspended in a mixture of petroleum ether and pentane (50-50 by volume), separated by filtration, washed with the mixture of petroleum ether and pentane and dried under reduced pressure (2 kPa). 21.7 g of N-benzyl-2-tert-butoxy-carbonylamino-5-trifluoromethoxybenzamide are thus obtained in the form of a cream-coloured solid melting at 144° C.

reactant | N-Benzyl-2-tert-butoxycarbonylamino-5-trifluoromethoxybenzamide | C(C1=CC=CC=C1)NC(C1=C(C=CC(=C1)OC(F)(F)F)NC(=O)OC(C)(C)C)=O | C20H21F3N2O4
reactant | N,N′-dicyclohexylcarbodiimide | 12.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-tert-butoxycarbonylamino-5-trifluoromethoxybenzoic acid | 20 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)OC(F)(F)F | C13H14F3NO5
reactant | 1-hydroxybenzotriazole | 16.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzylamine | 6.8 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | pentane | CCCCC | C5H12
product | N-benzyl-2-tert-butoxy-carbonylamino-5-trifluoromethoxybenzamide | 21.7 g | C(C1=CC=CC=C1)NC(C1=C(C(=CC(=C1)OC(F)(F)F)N=C=O)OC(C)(C)C)=O | C20H19F3N2O4
